US05498630
N-(2-Chloroethyl)-2-[(1,1-dimethylethyl)sulfinyl]-6-fluorobenzamide
A 0° C. solution of N-(2-chloroethyl)-2-fluoro-6-(1,1-dimethylethylthio)benzamide (2.0 g, 7.0 mmol) in methanol (50 mL) was combined with a 0° C. solution of OXONE® (4.24 g, 7.0 mmol) in water (50 mL). This mixture was stirred for 2 min, then was poured into 25% aq sodium metabisulfite (100 mL) and extracted with ether (3×100 mL). The combined organics were washed with brine followed with water, then were dried (MgSO4), concentrated, and purified by HPLC with 7:3 ethyl acetate/hexanes to afford 2.1 g of the title compound as a white solid, a 98% yield. m.p. 80°-90° C.

reactant | N-(2-chloroethyl)-2-fluoro-6-(1,1-dimethylethylthio)benzamide | 7.0 mmol, 2.0 g | ClCCNC(C1=C(C=CC=C1SC(C)(C)C)F)=O | C13H17ClFNOS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | sodium metabisulfite | 100 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | N-(2-Chloroethyl)-2-[(1,1-dimethylethyl)sulfinyl]-6-fluorobenzamide | 2.1 g, 98% yield | ClCCNC(C1=C(C=CC=C1F)S(=O)C(C)(C)C)=O | C13H17ClFNO2S
